US09034895B2
(4,6-dichloro-2-methyl-1-(2-morpholino ethyl)-1H-indol-3-yl)(4-methylnaphthalen-1-yl)methanone (CBX007)
To a solution of 4-methyl-1-naphthoyl chloride (29 mg, 0.14 mmol) and 4-(2-(4,6-dichloro-2-methyl-1H-indol-1-yl)ethyl)morpholine (44 mg, 0.14 mmol) in 1 mL CH2Cl2 at −70° C. was added dropwise ethyl aluminum dichloride (0.17 mL, 0.31 mmol, 1.8 M in toluene). The reaction mixture was allowed to slowly warm to room temperature overnight. The reaction mixture was then partitioned between ethyl acetate and cold H2O, and the aqueous layer extracted twice with ethyl acetate. The combined organic extract was washed successively with H2O, 10% K2CO3, and brine, dried over MgSO4, filtered, and concentrated in vacuo. The crude product was purified via silica gel chromatography using a gradient from 0 to 3% MeOH in CH2Cl2 to give CBX007 (50 mg, 0.10 mmol). 1H NMR (500 MHz, CDCl3, δ): 2.46 (s, 3H), 2.55 (t, J=4.4 Hz, 4H), 2.74 (t, J=6.9 Hz, 2H), 2.77 (s, 3H), 3.74 (t, J=4.5 Hz, 4H), 4.25 (t, J=6.9 Hz, 2H), 7.10 (d, J=1.7 Hz, 1H), 7.21 (d, J=7.4 Hz, 1H), 7.31 (d, J=1.6 Hz, 1H), 7.42 (d, J=7.3 Hz, 1H), 7.60-7.74 (m, 2H), 8.10 (d, J=7.7 Hz, 1H), 8.94 (d, J=8.2 Hz, 1H). 13C NMR (500 MHz, CDCl3, δ): 12.09, 20.60, 42.21, 54.54, 57.91, 67.28, 108.62, 116.44, 122.84, 123.78, 124.66, 125.62, 126.70, 126.93, 127.12, 128.03, 128.18, 131.09, 131.49, 133.51, 137.34, 137.57, 140.30, 142.76, 194.75. MS m/z 481.6 [M+H]+.

reactant | 4-methyl-1-naphthoyl chloride | 0.14 mmol, 29 mg | CC1=CC=C(C2=CC=CC=C12)C(=O)Cl | C12H9ClO
reactant | 4-(2-(4,6-dichloro-2-methyl-1H-indol-1-yl)ethyl)morpholine | 0.14 mmol, 44 mg | ClC1=C2C=C(N(C2=CC(=C1)Cl)CCN1CCOCC1)C | C15H18Cl2N2O
reactant | ethyl aluminum dichloride | 0.31 mmol, 1.8 M, 0.17 mL | [Cl-].[Cl-].C(C)[Al+2]
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | (4,6-dichloro-2-methyl-1-(2-morpholino ethyl)-1H-indol-3-yl)(4-methylnaphthalen-1-yl)methanone | ClC1=C2C(=C(N(C2=CC(=C1)Cl)CCN1CCOCC1)C)C(=O)C1=CC=C(C2=CC=CC=C12)C | C27H26Cl2N2O2
